US07825256B2
Boc-D-Pro-OH (209 mg, 0.970 mmol) was dissolved in DMF (4 mL), followed by addition of the HBTU (552 mg, 1.46 mmol) and Triethylamine (270 μL). The solution was stirred at room temperature for 30 minutes prior to the addition of piperonylamine (121 μL, 0.970 mmol). The reaction mixture stirred at rt for 16 h then the solution was transferred to a separatory funnel containing DCM (50 mL). The organic layer was washed with NaHCO3 (2×50 mL, sat. aq.) and dried over Na2SO4. The solution was concentrated and purified by prep LCMS to afford 278.0 mg (82.5%) of 2-[(benzo[1,3]dioxol-5-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester. [M+H]+ 349.09.

reactant | Boc-D-Pro-OH | 0.970 mmol, 209 mg | N1([C@@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | HBTU | 1.46 mmol, 552 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Triethylamine | 270 μL | C(C)N(CC)CC | C6H15N
reactant | piperonylamine | 0.970 mmol, 121 μL | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[(benzo[1,3]dioxol-5-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 278.0 mg, 82.5% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC1=CC2=C(OCO2)C=C1)=O | C18H24N2O5
